US07410976B2
To a stirred solution of 1.04 g (4.28 mmol) of methyl 4-hydroxy-8-cyclopropylquinoline-2-carboxylate in 11 mL of DMF was added 1.18 g of K2CO3 and 0.68 mL of ethyl iodide successively and the mixture was stirred at 60 deg C. for 12 hr. The mixture was partitioned between AcOEt and H2O and the organic layer was washed with H2O and satd. brine, dried over anhydrous Na2SO4, and then concentrated. The residue was purified on SiO2 column chromatography (eluted with n-Hex/AcOEt=19/1) to yield methyl 4-ethoxy-8-cyclopropylquinoline-2-carboxylate as a pale yellow solid.

reactant | methyl 4-hydroxy-8-cyclopropylquinoline-2-carboxylate | 4.28 mmol, 1.04 g | OC1=CC(=NC2=C(C=CC=C12)C1CC1)C(=O)OC | C14H13NO3
reactant | K2CO3 | 1.18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 0.68 mL | C(C)I | C2H5I
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | methyl 4-ethoxy-8-cyclopropylquinoline-2-carboxylate | C(C)OC1=CC(=NC2=C(C=CC=C12)C1CC1)C(=O)OC | C16H17NO3
